US07473696B2
((1R,3S)-3-isopropyl-3-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cylopentyl)[(3S,4S)-3-methoxytetrahydro-2H-pyran-4yl]amine succinate
Purification from Benzenesulfonate Salt: The resulting oil from the Example 1 was dissolved in IPA (1.54 L) and transferred to crystallization flask. An IPA (2×385 mL) rinse was added to the batch. The solution was warmed to 56° C. at which point benzenesulfonic acid (283 g, 1.79 mol) was added which resulted in an increase in temperature to 71° C. The solution was cooled to 60° C. and benzenesulfonate salt seed (1 g) was added. The thin slurry was aged for 30 min to develop a thick seed bed after which heptane (4.62 L) was added over 50 min. After aging at 55 to 65° C. for 2 h the slurry was cooled to ambient temperature overnight. The slurry was filtered and the wet cake was washed with 2:1 heptane/IPA (2×2.3 L). The off-white solid was dried under N2/vacuum to give the benzenesulfonate salt (875 g, 98.3 wt %) as a tan solid (84% adjusted yield). Water (11.1 L), IPAc (32 L), and ((1R,3S)-3-isopropyl-3-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cyclopentyl)[(3S,4S)-3-methoxytetrahydro-2H-pyran-4-yl]amine benzenesulfonate salt (1.645 kg) were added to a solution of K2CO3 (6.58 kg) in water (18.3 L). The mixture was aged 15 min. The layers were separated and the organic layer was washed with water (16 L). The IPAc solution of ((1R,3S)-3-Isopropyl-3-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cyclopentyl)[(3S,4S)-3-methoxytetrahydro-2H-pyran-4-yl]amine free base (60.5 kg containing 1.16 kg free base) was concentrated to an oil. The resulting oil was diluted with ethanol (3.785 L) and reconcentrated to an oil. The dilution and concentration were repeated three more times.

reactant | ((1R,3S)-3-isopropyl-3-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cyclopentyl)[(3S,4S)-3-methoxytetrahydro-2H-pyran-4-yl]amine benzenesulfonate salt | 1.645 kg | C1(=CC=CC=C1)S(=O)(=O)O.C(C)(C)[C@]1(C[C@@H](CC1)N[C@@H]1[C@@H](COCC1)OC)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F
reactant | K2CO3 | 6.58 kg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 18.3 L | O | H2O
solvent | Water | 11.1 L | O | H2O
product | ((1R,3S)-3-isopropyl-3-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cylopentyl)[(3S,4S)-3-methoxytetrahydro-2H-pyran-4yl]amine succinate | C(CCC(=O)O)(=O)O.C(C)(C)[C@]1(C[C@@H](CC1)N[C@@H]1[C@@H](COCC1)OC)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F | InChI=1S/C24H34F3N3O3.C4H6O4/c1-15(2)23(7-4-18(11-23)29-20-6-9-33-14-21(20)32-3)22(31)30-8-5-19-16(13-30)10-17(12-28-19)24(25,26)27;5-3(6)1-2-4(7)8/h10,12,15,18,20-21,29H,4-9,11,13-14H2,1-3H3;1-2H2,(H,5,6)(H,7,8)/t18-,20+,21-,23+;/m1./s1
